US04021229
Preparation of 2-ethyl-3-methylsulfonyl-5-methyl oxazolidine
A solution was formed containing 25 ml. of benzene and 6 g. of 2-ethyl-5-methyl oxazolidine suspended in 24 ml. of benzene. Then, 5.5 g. of triethylamine was added. The solution was cooled in an ice bath, wherein 5.8 g. of methane sulfonyl chloride was added dropwise with stirring to yield 6.4 g. of product, nD30 = 1.4778.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 2-ethyl-5-methyl oxazolidine | C(C)C1OC(CN1)C | C6H13NO
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-ethyl-3-methylsulfonyl-5-methyl oxazolidine | C(C)C1OC(CN1S(=O)(=O)C)C | C7H15NO3S
